US06596719B1
To a solution of 1.0 g of 4,6-dichloro-5-(o-methoxyphenoxy)-2-methyl-pyrimidine in 20 ml of DMSO was added 1.76 g of 4-tert.-butyl-benzene sulfonamide potassium salt. The mixture was stirred for 72 h at room temperature. The solution was diluted with 250 ml of water and extracted twice with 200 ml of diehtyl ether. The organic layers were extracted twice with water. The combined aqueous layers were acidified to pH 4 with 5 ml of acetic acid and cooled to 0° C. The precipitated product was filtered off and dried in vacuo to give 1.05 g of 4-tert.-butyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-benzene sulfonamide as a pale beige powder. LC-MS: tR=5.64 min, [M+1]+=462.51, [M−1]−=460.63.

reactant | 4,6-dichloro-5-(o-methoxyphenoxy)-2-methyl-pyrimidine | 1.0 g | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C | C12H10Cl2N2O2
reactant | 4-tert.-butyl-benzene sulfonamide potassium salt | 1.76 g | [K+].C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)[NH-]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | water | 250 ml | O | H2O
product | 4-tert.-butyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-methyl-4-pyrimidinyl]-benzene sulfonamide | 1.05 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C | C22H24ClN3O4S
